US07786307B2
N-(4(S)-Amino-5(S)-hydroxy-2(S)-isopropyl-6-piperidin-1-ylhexyl)-2-(3-methoxypropoxy)-benzamide dihydrochloride
The solution of 0.024 g of tert-butyl (1(S)-(1(S)-hydroxy-2-piperidin-1-ylethyl)-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate in 1 ml of 4M HCl (in dioxane) is stirred at 0° C. over 3 hours and subsequently concentrated by evaporation to dryness—the residue is dissolved in 1 ml of tert-butanol, frozen and lyophilized under high vacuum. The title compound is obtained as a white powder. Rf=0.09 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=2.95 (gradient I).

reactant | tert-butyl (1(S)-(1(S)-hydroxy-2-piperidin-1-ylethyl)-3(S)-{[2-(3-methoxypropoxy)benzoylamino]methyl}-4-methylpentyl)carbamate | 0.024 g | O[C@@H](CN1CCCCC1)[C@H](C[C@@H](C(C)C)CNC(C1=C(C=CC=C1)OCCCOC)=O)NC(OC(C)(C)C)=O | C30H51N3O6
reactant | HCl | 4M, 1 ml | Cl | ClH
product | N-(4(S)-Amino-5(S)-hydroxy-2(S)-isopropyl-6-piperidin-1-ylhexyl)-2-(3-methoxypropoxy)-benzamide dihydrochloride | Cl.Cl.N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](CN1CCCCC1)O | InChI=1S/C25H43N3O4.2ClH/c1-19(2)20(16-22(26)23(29)18-28-12-7-4-8-13-28)17-27-25(30)21-10-5-6-11-24(21)32-15-9-14-31-3;;/h5-6,10-11,19-20,22-23,29H,4,7-9,12-18,26H2,1-3H3,(H,27,30);2*1H/t20-,22+,23+;;/m1../s1
